US07223788B2
tert-Butyl [1-(5-aminopyridin-2-yl)pyrrolidin-3-yl]carbamate
2-Chloro-5-nitropyridine was treated with tert-butyl (R)-(+)-pyrrolidin-3-ylcarbamate and subsequently hydrogenated by method C-c. This resulted in the product with the molecular weight of 278.36 (C14H22N4O2); MS (ESI): 279 (M+H+).

reactant | 2-Chloro-5-nitropyridine | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
reactant | tert-butyl (R)-(+)-pyrrolidin-3-ylcarbamate | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
product | tert-Butyl [1-(5-aminopyridin-2-yl)pyrrolidin-3-yl]carbamate | NC=1C=CC(=NC1)N1CC(CC1)NC(OC(C)(C)C)=O | C14H22N4O2
